US05821245
1-(1-Methylpiperidin-4-yl-7-trifluoromethanesulfonyloxynaphthalene
A solution of 1-(1-methylpiperidin-4-yl)-7-hydroxynaphthalene (3.47 g, 14.4 mmol) in methylene chloride (150 mL) was treated with triethylamine (9.03 mL, 64.8 mmol) and chilled to -78° C. Triflic anhydride (3.03 mL, 18.0 mmol) was added dropwise to the reaction with a 10 mL methylene chloride rinse. The reaction was allowed to warm to room temperature and stir overnight. The reaction was concentrated with a nitrogen stream and the residue was partitioned between methylene chloride and saturated aqueous sodium bicarbonate. The phases were separated and the organic phase was washed with brine, dried over calcium sulfate and concentrated. The residue was flash chromatographed on silica gel (2×3 inches packed in 75% ethyl acetate/hexane). Elution proceeded as follows: 75% ethyl acetate/hexane, 500 mL, nil; ethyl acetate, 600 mL, nil; 2% methanol/1% triethylamine/ethyl acetate, 600 mL, nil; 5% methanol/2% triethylamine/ethyl acetate, 600 mL, 2.74 g (51%) of 1-(1-methylpiperidin-4-yl)-7 -trifluoromethanesulfonyloxynaphthalene as a light brown crystalline solid suitable for further reaction. A sample recrystallized from ethyl acetate/hexane had: mp 144°-146° C.; 1H NMR (250 MHz, CDCl3) δ 7.96-7.91 (m, 2H), 7.76 (dd, J=2.5, 7 Hz, 1H), 7.58-7.51 (m, 2H), 7.36 (dd, J=2.5, 9 Hz, 1H), 3.25-3.12 (m, 3H), 2.48 (s, 3H), 2.37 (sym m, 2H), 2.19-1.95 (m, 4H). HRMS m/e calculated for C17H18F3NO3S: 373.0954. Observed m/e: 373.0898.

reactant | 1-(1-methylpiperidin-4-yl)-7-hydroxynaphthalene | 14.4 mmol, 3.47 g | CN1CCC(CC1)C1=CC=CC2=CC=C(C=C12)O | C16H19NO
reactant | triethylamine | 64.8 mmol, 9.03 mL | C(C)N(CC)CC | C6H15N
reactant | Triflic anhydride | 18.0 mmol, 3.03 mL | S(=O)(=O)(C(F)(F)F)OS(=O)(=O)C(F)(F)F | C2F6O5S2
solvent | methylene chloride | 150 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
product | 1-Methylpiperidin-4-yl-7-trifluoromethanesulfonyloxynaphthalene | CN1CCC(CC1)C1=CC=CC2=CC=C(C=C12)OS(=O)(=O)C(F)(F)F | C17H18F3NO3S
